** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/tests/test_hm_IOPadInOut30mA_OpenDrain.sch
**.subckt test_hm_IOPadInOut30mA_OpenDrain
x1 vss vdd vss iovss iovdd c2p vout iovdd c2p_en net1 otype hm_IOPadInOut30mA_OpenDrain
Vdd vdd GND 1.2
Vss vss GND 0
Viovdd iovdd GND 3.3
Viovss iovss GND 0
R1 iovdd vout 100k m=1
**** begin user architecture code



Vc2p c2p 0 PULSE(0 3.3 10u 1u 1u 10u 100u)
Ven c2p_en 0 3.3
Votype otype 0 3.3

.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.include /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/diodes.lib

.control
tran 10n 100u
plot c2p c2p_en otype
plot vout
.endc



**** end user architecture code
**.ends

* expanding   symbol:  /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_io/hm_IOPadInOut30mA_OpenDrain.sym # of
*+ pins=11
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_io/hm_IOPadInOut30mA_OpenDrain.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_io/hm_IOPadInOut30mA_OpenDrain.sch
.subckt hm_IOPadInOut30mA_OpenDrain vss vdd ! iovss iovdd1 c2p pad iovdd c2p_en p2c otype
*.iopin iovdd1
*.iopin vss
*.iopin vdd
*.iopin !
*.iopin iovss
*.iopin iovdd
*.iopin pad
*.iopin c2p_en
*.iopin c2p
*.iopin p2c
*.iopin otype
XR2 vss ! ptap1 R=22.47 w=4.9e-6 l=4.9e-6
XR1 iovss ! ptap1 R=0.209 w=66.51e-6 l=66.51e-6
x2 iovdd ! pad pad ! sg13g2_DCPDiode_noptap
x1 pad iovss pad iovdd ! sg13g2_DCNDiode
x4 pad pad pad pad pad pad pad pad iovss ! net2 sg13g2_Clamp_N15N15D
x5 net1 iovdd iovss pad pad pad pad pad pad pad pad ! sg13g2_Clamp_P15N15D_noptap
x6 iovdd1 iovss pad p2c vdd vss ! sg13g2_LevelDown_noptap
x3 iovdd1 vss c2p_en net1 vdd ! net2 c2p otype hm_GateDecode_OpenDrain_noptap
.ends


* expanding   symbol:  hm_stdcells/sg13g2_DCPDiode_noptap.sym # of pins=5
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_DCPDiode_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_DCPDiode_noptap.sch
.subckt sg13g2_DCPDiode_noptap cathode guard anode1 anode2 sub
*.iopin anode2
*.iopin cathode
*.iopin guard
*.iopin anode1
*.iopin sub
XD1 anode1 cathode dpantenna l=27.78u w=1.26u
XD2 anode2 cathode dpantenna l=27.78u w=1.26u
.ends


* expanding   symbol:  hm_stdcells/sg13g2_DCNDiode.sym # of pins=5
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_DCNDiode.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_DCNDiode.sch
.subckt sg13g2_DCNDiode cathode1 anode cathode2 guard sub
*.iopin cathode2
*.iopin guard
*.iopin anode
*.iopin cathode1
*.iopin sub
XR1 anode sub ptap1 R=5.179 w=11.9e-6 l=11.9e-6
XD1 sub cathode1 dantenna l=27.78u w=1.26u
* noconn guard
XD2 sub cathode2 dantenna l=27.78u w=1.26u
.ends


* expanding   symbol:  hm_stdcells/sg13g2_Clamp_N15N15D.sym # of pins=4
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_Clamp_N15N15D.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_Clamp_N15N15D.sch
.subckt sg13g2_Clamp_N15N15D pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] iovss sub gate
*.iopin iovss
*.iopin gate
*.iopin pad[7],pad[6],pad[5],pad[4],pad[3],pad[2],pad[1],pad[0]
*.iopin sub
XR1 iovss sub ptap1 R=11.44 w=7.47e-6 l=7.47e-6
XD1 sub gate dantenna l=0.78u w=0.78u
XM1 pad[0] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM2 pad[1] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM3 pad[2] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM4 pad[3] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM5 pad[4] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM6 pad[5] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM7 pad[6] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
XM8 pad[7] gate iovss sub sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_Clamp_P15N15D_noptap.sym # of pins=5
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_Clamp_P15N15D_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_Clamp_P15N15D_noptap.sch
.subckt sg13g2_Clamp_P15N15D_noptap gate iovdd iovss pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] sub
*.iopin iovss
*.iopin gate
*.iopin iovdd
*.iopin pad[7],pad[6],pad[5],pad[4],pad[3],pad[2],pad[1],pad[0]
*.iopin sub
XM1 pad[0] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XD1 gate iovdd dpantenna l=0.78u w=0.78u
XM2 pad[1] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM3 pad[2] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM4 pad[3] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM5 pad[4] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM6 pad[5] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM7 pad[6] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
XM8 pad[7] gate iovdd iovdd sg13_hv_pmos w=13.32u l=0.6u ng=2 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_LevelDown_noptap.sym # of pins=7
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_LevelDown_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_LevelDown_noptap.sch
.subckt sg13g2_LevelDown_noptap iovdd iovss pad core vdd vss !
*.iopin iovdd
*.iopin vss
*.iopin core
*.iopin pad
*.iopin vdd
*.iopin iovss
*.iopin !
XM5 net2 net1 vdd vdd sg13_hv_pmos w=4.65u l=0.45u ng=1 m=1
XM6 net2 net1 vss ! sg13_hv_nmos w=2.65u l=0.45u ng=1 m=1
XM7 core net2 vss ! sg13_lv_nmos w=2.75u l=0.13u ng=1 m=1
XM8 core net2 vdd vdd sg13_lv_pmos w=4.75u l=0.13u ng=1 m=1
x1 net1 iovdd iovss pad ! sg13g2_SecondaryProtection_noptap
.ends


* expanding   symbol:  /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_GateDecode_OpenDrain_noptap.sym #
*+ of pins=9
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_GateDecode_OpenDrain_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/hm_GateDecode_OpenDrain_noptap.sch
.subckt hm_GateDecode_OpenDrain_noptap iovdd vss en pgate vdd sub ngate core otype
*.iopin pgate
*.iopin ngate
*.iopin iovdd
*.iopin vss
*.iopin en
*.iopin vdd
*.iopin sub
*.iopin core
*.iopin otype
x1 iovdd vss net2 pgate vdd sub sg13g2_LevelUp_noptap
x2 iovdd vss net1 ngate vdd sub sg13g2_LevelUp_noptap
x3 vss en en_neg vdd sub sg13g2_io_inv_x1_noptap
x4 vss core net2 vdd sub net3 sg13g2_io_nand2_x1_noptap
x5 vss core net1 vdd sub en_neg sg13g2_io_nor2_x1_noptap
x6 vss vdd sub sg13g2_io_tie_noptap
XR2 vss sub ptap1 R=114.9 w=1.54e-6 l=1.54e-6
x7 vss otype net3 vdd sub en_neg sg13g2_io_nor2_x1_noptap
.ends


* expanding   symbol:  hm_stdcells/sg13g2_SecondaryProtection_noptap.sym # of pins=5
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_SecondaryProtection_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_SecondaryProtection_noptap.sch
.subckt sg13g2_SecondaryProtection_noptap core iovdd iovss pad !
*.iopin iovss
*.iopin core
*.iopin pad
*.iopin iovdd
*.iopin !
XD1 core iovdd dpantenna l=4.98u w=0.64u
XD2 ! core dantenna l=3.1u w=0.64u
XR1 pad core sub! rppd w=1e-6 l=2e-6 m=1 b=0
.ends


* expanding   symbol:  hm_stdcells/sg13g2_LevelUp_noptap.sym # of pins=6
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_LevelUp_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_LevelUp_noptap.sch
.subckt sg13g2_LevelUp_noptap iovdd vss in out vdd sub
*.iopin iovdd
*.iopin vss
*.iopin out
*.iopin in
*.iopin vdd
*.iopin sub
XM1 net1 net3 vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
XM3 net1 net2 iovdd iovdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
XM4 net2 net1 iovdd iovdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
XM5 out net2 iovdd iovdd sg13_hv_pmos w=3.9u l=0.45u ng=1 m=1
XM2 net2 in vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
XM6 out net2 vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
XM7 net3 in vss sub sg13_lv_nmos w=2.75u l=0.13u ng=1 m=1
XM8 net3 in vdd vdd sg13_lv_pmos w=4.75u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_io_inv_x1_noptap.sym # of pins=5
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_inv_x1_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_inv_x1_noptap.sch
.subckt sg13g2_io_inv_x1_noptap vss i nq vdd sub
*.iopin vss
*.iopin nq
*.iopin i
*.iopin vdd
*.iopin sub
XM7 nq i vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
XM8 nq i vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_io_nand2_x1_noptap.sym # of pins=6
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_nand2_x1_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_nand2_x1_noptap.sch
.subckt sg13g2_io_nand2_x1_noptap vss i0 nq vdd sub i1
*.iopin vss
*.iopin nq
*.iopin i0
*.iopin vdd
*.iopin sub
*.iopin i1
XM7 net1 i0 vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
XM8 nq i0 vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
XM2 nq i1 vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
XM1 nq i1 net1 sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_io_nor2_x1_noptap.sym # of pins=6
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_nor2_x1_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_nor2_x1_noptap.sch
.subckt sg13g2_io_nor2_x1_noptap vss i0 nq vdd sub i1
*.iopin vss
*.iopin nq
*.iopin i0
*.iopin vdd
*.iopin sub
*.iopin i1
XM7 nq i0 vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
XM8 net1 i0 vdd vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
XM1 nq i1 vss sub sg13_lv_nmos w=3.93u l=0.13u ng=1 m=1
XM2 nq i1 net1 vdd sg13_lv_pmos w=4.41u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  hm_stdcells/sg13g2_io_tie_noptap.sym # of pins=3
** sym_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_tie_noptap.sym
** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/hm_stdcells/sg13g2_io_tie_noptap.sch
.subckt sg13g2_io_tie_noptap vss vdd sub
*.iopin vss
*.iopin vdd
*.iopin sub
* noconn vdd
* noconn vss
* noconn sub
.ends

.GLOBAL GND
.end
