** sch_path: /home/designer/shared/hm-openpdk-library/libs.tech/xschem/untitled.sch
**.subckt untitled
Vdd vdd GND 1.2
Vss vss GND 0
iovdd iovdd GND 3.3
iovss iovss GND 0
x1 vss vdd vss iovss iovdd c2p vout iovdd c2p_en net1 sg13g2_IOPadInOut30mA
R1 vout GND 100000 m=1
R2 net1 GND 100000 m=1
**** begin user architecture code



Vc2p c2p 0 PULSE(0 3.3 20u 1u 1u 30u 100u)
Ven c2p_en 0 3.3
Votype otype 0 0

.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.include /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/diodes.lib

.control
tran 1n 100u
plot c2p c2p_en otype
plot vout
.endc



**** end user architecture code
**.ends

* expanding   symbol:  /home/designer/shared/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_IOPadInOut30mA.sym # of pins=10
** sym_path: /home/designer/shared/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_IOPadInOut30mA.sym
** sch_path: /home/designer/shared/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_IOPadInOut30mA.sch
.subckt sg13g2_IOPadInOut30mA vss vdd ! iovss iovdd1 c2p pad iovdd c2p_en p2c
*.iopin iovdd1
*.iopin vss
*.iopin vdd
*.iopin !
*.iopin iovss
*.iopin iovdd
*.iopin pad
*.iopin c2p_en
*.iopin c2p
*.iopin p2c
XR2 vss ! ptap1 R=22.47 w=4.9e-6 l=4.9e-6
XR1 iovss ! ptap1 R=0.209 w=66.51e-6 l=66.51e-6
*  x2 -  sg13g2_DCPDiode_noptap  IS MISSING !!!!
*  x1 -  sg13g2_DCNDiode  IS MISSING !!!!
*  x3 -  sg13g2_GateDecode_noptap  IS MISSING !!!!
*  x4 -  sg13g2_Clamp_N15N15D  IS MISSING !!!!
*  x5 -  sg13g2_Clamp_P15N15D_noptap  IS MISSING !!!!
*  x6 -  sg13g2_LevelDown_noptap  IS MISSING !!!!
.ends

.GLOBAL GND
.end
